US08809361B2
1″-(Isopropyloxycarbonyl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
Isopropyl chloroformate (1 mol/L in toluene; 0.15 mL) is added to a mixture of 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt; 60 mg), triethylamine (40 μL), and dichloromethane (5 mL) at room temperature. The solution is stirred for 3 h and then concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 4:1→1:4) to give the title compound. LC (method 1): tR=1.02 min; Mass spectrum (ESI+): m/z=476 [M+H]+.

reactant | Isopropyl chloroformate | 1 mol/L, 0.15 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 60 mg | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C20H27N3O3S
reactant | triethylamine | 40 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1″-(Isopropyloxycarbonyl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(C)(C)OC(=O)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C24H33N3O5S
